US09024093B2
Synthesis of tributyl(2,4,6-trimethylphenyl)stannane (S4)
To 2,4,6-trimethylphenylmagnesium bromide (1.0 M in THF, 10.0 mL, 10 mmol, 1.0 equiv) in THF (30 mL) at −78° C. was added nBu3SnCl (3.25 g, 10.0 mmol, 1.00 equiv). After stiffing for 1.0 hr at 23° C., the solvent was removed in vacuo and the residue was purified by fractional distillation to afford 3.68 g of the title compound as a colorless oil (90% yield).

reactant | 2,4,6-trimethylphenylmagnesium bromide | 10 mmol, 1.0 M, 10.0 mL, 1.0 equiv | CC1=C(C(=CC(=C1)C)C)[Mg]Br
reactant | nBu3SnCl | 10.0 mmol, 3.25 g, 1.00 equiv | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tributyl(2,4,6-trimethylphenyl)stannane | 3.68 g, 90% yield | C(CCC)[Sn](C1=C(C=C(C=C1C)C)C)(CCCC)CCCC | InChI=1S/C9H11.3C4H9.Sn/c1-7-4-8(2)6-9(3)5-7;3*1-3-4-2;/h4-5H,1-3H3;3*1,3-4H2,2H3;
